digits differential current-mode EP (live)
.model NNR NMOS (LEVEL=1 VTO=0.2  KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u  LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt dsyn inp inn outp outn wp wn vdd
M1 outp inp tp 0 NNR W=200u L=100u
M2 outn inn tp 0 NNR W=200u L=100u
Mtp tp wp 0 0 NNR W=200u L=100u
M3 outn inp tn 0 NNR W=200u L=100u
M4 outp inn tn 0 NNR W=200u L=100u
Mtn tn wn 0 0 NNR W=200u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
RLa vdd ap 800k
RLb vdd an 800k
.ends

Vdd vdd 0 1.0
Vbn vbn 0 0.30
Vbp_hi bp_hi 0 0.8
Vbp_lo bp_lo 0 0.2
Vaxp0 a_xp0 0 0.5
Vaxn0 a_xn0 0 0.5
Vaxp1 a_xp1 0 0.5
Vaxn1 a_xn1 0 0.5
Vtp0 vtp0 0 0.5
Vtn0 vtn0 0 0.5
Vtp1 vtp1 0 0.5
Vtn1 vtn1 0 0.5
Mlp_h0 up_h0 up_h0 vdd vdd PNR W=1500u L=100u
Mln_h0 un_h0 un_h0 vdd vdd PNR W=1500u L=100u
Xn_h0 up_h0 un_h0 ap_h0 an_h0 vdd vbn dneuron
Vwp_ih_0_0 wp_ih_0_0 0 0.5016
Vwn_ih_0_0 wn_ih_0_0 0 0.3384
X_ih_0_0 a_xp0 a_xn0 up_h0 un_h0 wp_ih_0_0 wn_ih_0_0 vdd dsyn
Vwp_ih_1_0 wp_ih_1_0 0 0.3178
Vwn_ih_1_0 wn_ih_1_0 0 0.5222
X_ih_1_0 a_xp1 a_xn1 up_h0 un_h0 wp_ih_1_0 wn_ih_1_0 vdd dsyn
Vwp_bk_0_0 wp_bk_0_0 0 0.4367
Vwn_bk_0_0 wn_bk_0_0 0 0.4033
X_bk_0_0 up_o0 un_o0 up_h0 un_h0 wp_bk_0_0 wn_bk_0_0 vdd dsyn
Vwp_bk_0_1 wp_bk_0_1 0 0.3973
Vwn_bk_0_1 wn_bk_0_1 0 0.4427
X_bk_0_1 up_o1 un_o1 up_h0 un_h0 wp_bk_0_1 wn_bk_0_1 vdd dsyn
Vwp_bh_0 wp_bh_0 0 0.4019
Vwn_bh_0 wn_bh_0 0 0.4381
X_bh_0 bp_hi bp_lo up_h0 un_h0 wp_bh_0 wn_bh_0 vdd dsyn
Mlp_h1 up_h1 up_h1 vdd vdd PNR W=1500u L=100u
Mln_h1 un_h1 un_h1 vdd vdd PNR W=1500u L=100u
Xn_h1 up_h1 un_h1 ap_h1 an_h1 vdd vbn dneuron
Vwp_ih_0_1 wp_ih_0_1 0 0.4114
Vwn_ih_0_1 wn_ih_0_1 0 0.4286
X_ih_0_1 a_xp0 a_xn0 up_h1 un_h1 wp_ih_0_1 wn_ih_0_1 vdd dsyn
Vwp_ih_1_1 wp_ih_1_1 0 0.3392
Vwn_ih_1_1 wn_ih_1_1 0 0.5008
X_ih_1_1 a_xp1 a_xn1 up_h1 un_h1 wp_ih_1_1 wn_ih_1_1 vdd dsyn
Vwp_bk_1_0 wp_bk_1_0 0 0.4107
Vwn_bk_1_0 wn_bk_1_0 0 0.4293
X_bk_1_0 up_o0 un_o0 up_h1 un_h1 wp_bk_1_0 wn_bk_1_0 vdd dsyn
Vwp_bk_1_1 wp_bk_1_1 0 0.3854
Vwn_bk_1_1 wn_bk_1_1 0 0.4546
X_bk_1_1 up_o1 un_o1 up_h1 un_h1 wp_bk_1_1 wn_bk_1_1 vdd dsyn
Vwp_bh_1 wp_bh_1 0 0.5529
Vwn_bh_1 wn_bh_1 0 0.3000
X_bh_1 bp_hi bp_lo up_h1 un_h1 wp_bh_1 wn_bh_1 vdd dsyn
Mlp_h2 up_h2 up_h2 vdd vdd PNR W=1500u L=100u
Mln_h2 un_h2 un_h2 vdd vdd PNR W=1500u L=100u
Xn_h2 up_h2 un_h2 ap_h2 an_h2 vdd vbn dneuron
Vwp_ih_0_2 wp_ih_0_2 0 0.4290
Vwn_ih_0_2 wn_ih_0_2 0 0.4110
X_ih_0_2 a_xp0 a_xn0 up_h2 un_h2 wp_ih_0_2 wn_ih_0_2 vdd dsyn
Vwp_ih_1_2 wp_ih_1_2 0 0.4059
Vwn_ih_1_2 wn_ih_1_2 0 0.4341
X_ih_1_2 a_xp1 a_xn1 up_h2 un_h2 wp_ih_1_2 wn_ih_1_2 vdd dsyn
Vwp_bk_2_0 wp_bk_2_0 0 0.4087
Vwn_bk_2_0 wn_bk_2_0 0 0.4313
X_bk_2_0 up_o0 un_o0 up_h2 un_h2 wp_bk_2_0 wn_bk_2_0 vdd dsyn
Vwp_bk_2_1 wp_bk_2_1 0 0.3933
Vwn_bk_2_1 wn_bk_2_1 0 0.4467
X_bk_2_1 up_o1 un_o1 up_h2 un_h2 wp_bk_2_1 wn_bk_2_1 vdd dsyn
Vwp_bh_2 wp_bh_2 0 0.3778
Vwn_bh_2 wn_bh_2 0 0.4622
X_bh_2 bp_hi bp_lo up_h2 un_h2 wp_bh_2 wn_bh_2 vdd dsyn
Mlp_h3 up_h3 up_h3 vdd vdd PNR W=1500u L=100u
Mln_h3 un_h3 un_h3 vdd vdd PNR W=1500u L=100u
Xn_h3 up_h3 un_h3 ap_h3 an_h3 vdd vbn dneuron
Vwp_ih_0_3 wp_ih_0_3 0 0.4044
Vwn_ih_0_3 wn_ih_0_3 0 0.4356
X_ih_0_3 a_xp0 a_xn0 up_h3 un_h3 wp_ih_0_3 wn_ih_0_3 vdd dsyn
Vwp_ih_1_3 wp_ih_1_3 0 0.4393
Vwn_ih_1_3 wn_ih_1_3 0 0.4007
X_ih_1_3 a_xp1 a_xn1 up_h3 un_h3 wp_ih_1_3 wn_ih_1_3 vdd dsyn
Vwp_bk_3_0 wp_bk_3_0 0 0.4105
Vwn_bk_3_0 wn_bk_3_0 0 0.4295
X_bk_3_0 up_o0 un_o0 up_h3 un_h3 wp_bk_3_0 wn_bk_3_0 vdd dsyn
Vwp_bk_3_1 wp_bk_3_1 0 0.4583
Vwn_bk_3_1 wn_bk_3_1 0 0.3817
X_bk_3_1 up_o1 un_o1 up_h3 un_h3 wp_bk_3_1 wn_bk_3_1 vdd dsyn
Vwp_bh_3 wp_bh_3 0 0.4120
Vwn_bh_3 wn_bh_3 0 0.4280
X_bh_3 bp_hi bp_lo up_h3 un_h3 wp_bh_3 wn_bh_3 vdd dsyn
Mlp_h4 up_h4 up_h4 vdd vdd PNR W=1500u L=100u
Mln_h4 un_h4 un_h4 vdd vdd PNR W=1500u L=100u
Xn_h4 up_h4 un_h4 ap_h4 an_h4 vdd vbn dneuron
Vwp_ih_0_4 wp_ih_0_4 0 0.4210
Vwn_ih_0_4 wn_ih_0_4 0 0.4190
X_ih_0_4 a_xp0 a_xn0 up_h4 un_h4 wp_ih_0_4 wn_ih_0_4 vdd dsyn
Vwp_ih_1_4 wp_ih_1_4 0 0.4818
Vwn_ih_1_4 wn_ih_1_4 0 0.3582
X_ih_1_4 a_xp1 a_xn1 up_h4 un_h4 wp_ih_1_4 wn_ih_1_4 vdd dsyn
Vwp_bk_4_0 wp_bk_4_0 0 0.4418
Vwn_bk_4_0 wn_bk_4_0 0 0.3982
X_bk_4_0 up_o0 un_o0 up_h4 un_h4 wp_bk_4_0 wn_bk_4_0 vdd dsyn
Vwp_bk_4_1 wp_bk_4_1 0 0.3998
Vwn_bk_4_1 wn_bk_4_1 0 0.4402
X_bk_4_1 up_o1 un_o1 up_h4 un_h4 wp_bk_4_1 wn_bk_4_1 vdd dsyn
Vwp_bh_4 wp_bh_4 0 0.4127
Vwn_bh_4 wn_bh_4 0 0.4273
X_bh_4 bp_hi bp_lo up_h4 un_h4 wp_bh_4 wn_bh_4 vdd dsyn
Mlp_h5 up_h5 up_h5 vdd vdd PNR W=1500u L=100u
Mln_h5 un_h5 un_h5 vdd vdd PNR W=1500u L=100u
Xn_h5 up_h5 un_h5 ap_h5 an_h5 vdd vbn dneuron
Vwp_ih_0_5 wp_ih_0_5 0 0.4416
Vwn_ih_0_5 wn_ih_0_5 0 0.3984
X_ih_0_5 a_xp0 a_xn0 up_h5 un_h5 wp_ih_0_5 wn_ih_0_5 vdd dsyn
Vwp_ih_1_5 wp_ih_1_5 0 0.4974
Vwn_ih_1_5 wn_ih_1_5 0 0.3426
X_ih_1_5 a_xp1 a_xn1 up_h5 un_h5 wp_ih_1_5 wn_ih_1_5 vdd dsyn
Vwp_bk_5_0 wp_bk_5_0 0 0.4092
Vwn_bk_5_0 wn_bk_5_0 0 0.4308
X_bk_5_0 up_o0 un_o0 up_h5 un_h5 wp_bk_5_0 wn_bk_5_0 vdd dsyn
Vwp_bk_5_1 wp_bk_5_1 0 0.4103
Vwn_bk_5_1 wn_bk_5_1 0 0.4297
X_bk_5_1 up_o1 un_o1 up_h5 un_h5 wp_bk_5_1 wn_bk_5_1 vdd dsyn
Vwp_bh_5 wp_bh_5 0 0.4601
Vwn_bh_5 wn_bh_5 0 0.3799
X_bh_5 bp_hi bp_lo up_h5 un_h5 wp_bh_5 wn_bh_5 vdd dsyn
Mlp_h6 up_h6 up_h6 vdd vdd PNR W=1500u L=100u
Mln_h6 un_h6 un_h6 vdd vdd PNR W=1500u L=100u
Xn_h6 up_h6 un_h6 ap_h6 an_h6 vdd vbn dneuron
Vwp_ih_0_6 wp_ih_0_6 0 0.3845
Vwn_ih_0_6 wn_ih_0_6 0 0.4555
X_ih_0_6 a_xp0 a_xn0 up_h6 un_h6 wp_ih_0_6 wn_ih_0_6 vdd dsyn
Vwp_ih_1_6 wp_ih_1_6 0 0.4083
Vwn_ih_1_6 wn_ih_1_6 0 0.4317
X_ih_1_6 a_xp1 a_xn1 up_h6 un_h6 wp_ih_1_6 wn_ih_1_6 vdd dsyn
Vwp_bk_6_0 wp_bk_6_0 0 0.4553
Vwn_bk_6_0 wn_bk_6_0 0 0.3847
X_bk_6_0 up_o0 un_o0 up_h6 un_h6 wp_bk_6_0 wn_bk_6_0 vdd dsyn
Vwp_bk_6_1 wp_bk_6_1 0 0.4432
Vwn_bk_6_1 wn_bk_6_1 0 0.3968
X_bk_6_1 up_o1 un_o1 up_h6 un_h6 wp_bk_6_1 wn_bk_6_1 vdd dsyn
Vwp_bh_6 wp_bh_6 0 0.4237
Vwn_bh_6 wn_bh_6 0 0.4163
X_bh_6 bp_hi bp_lo up_h6 un_h6 wp_bh_6 wn_bh_6 vdd dsyn
Mlp_h7 up_h7 up_h7 vdd vdd PNR W=1500u L=100u
Mln_h7 un_h7 un_h7 vdd vdd PNR W=1500u L=100u
Xn_h7 up_h7 un_h7 ap_h7 an_h7 vdd vbn dneuron
Vwp_ih_0_7 wp_ih_0_7 0 0.4468
Vwn_ih_0_7 wn_ih_0_7 0 0.3932
X_ih_0_7 a_xp0 a_xn0 up_h7 un_h7 wp_ih_0_7 wn_ih_0_7 vdd dsyn
Vwp_ih_1_7 wp_ih_1_7 0 0.3069
Vwn_ih_1_7 wn_ih_1_7 0 0.5331
X_ih_1_7 a_xp1 a_xn1 up_h7 un_h7 wp_ih_1_7 wn_ih_1_7 vdd dsyn
Vwp_bk_7_0 wp_bk_7_0 0 0.4609
Vwn_bk_7_0 wn_bk_7_0 0 0.3791
X_bk_7_0 up_o0 un_o0 up_h7 un_h7 wp_bk_7_0 wn_bk_7_0 vdd dsyn
Vwp_bk_7_1 wp_bk_7_1 0 0.3816
Vwn_bk_7_1 wn_bk_7_1 0 0.4584
X_bk_7_1 up_o1 un_o1 up_h7 un_h7 wp_bk_7_1 wn_bk_7_1 vdd dsyn
Vwp_bh_7 wp_bh_7 0 0.3533
Vwn_bh_7 wn_bh_7 0 0.4867
X_bh_7 bp_hi bp_lo up_h7 un_h7 wp_bh_7 wn_bh_7 vdd dsyn
Mlp_h8 up_h8 up_h8 vdd vdd PNR W=1500u L=100u
Mln_h8 un_h8 un_h8 vdd vdd PNR W=1500u L=100u
Xn_h8 up_h8 un_h8 ap_h8 an_h8 vdd vbn dneuron
Vwp_ih_0_8 wp_ih_0_8 0 0.4311
Vwn_ih_0_8 wn_ih_0_8 0 0.4089
X_ih_0_8 a_xp0 a_xn0 up_h8 un_h8 wp_ih_0_8 wn_ih_0_8 vdd dsyn
Vwp_ih_1_8 wp_ih_1_8 0 0.4480
Vwn_ih_1_8 wn_ih_1_8 0 0.3920
X_ih_1_8 a_xp1 a_xn1 up_h8 un_h8 wp_ih_1_8 wn_ih_1_8 vdd dsyn
Vwp_bk_8_0 wp_bk_8_0 0 0.4022
Vwn_bk_8_0 wn_bk_8_0 0 0.4378
X_bk_8_0 up_o0 un_o0 up_h8 un_h8 wp_bk_8_0 wn_bk_8_0 vdd dsyn
Vwp_bk_8_1 wp_bk_8_1 0 0.3769
Vwn_bk_8_1 wn_bk_8_1 0 0.4631
X_bk_8_1 up_o1 un_o1 up_h8 un_h8 wp_bk_8_1 wn_bk_8_1 vdd dsyn
Vwp_bh_8 wp_bh_8 0 0.4210
Vwn_bh_8 wn_bh_8 0 0.4190
X_bh_8 bp_hi bp_lo up_h8 un_h8 wp_bh_8 wn_bh_8 vdd dsyn
Mlp_h9 up_h9 up_h9 vdd vdd PNR W=1500u L=100u
Mln_h9 un_h9 un_h9 vdd vdd PNR W=1500u L=100u
Xn_h9 up_h9 un_h9 ap_h9 an_h9 vdd vbn dneuron
Vwp_ih_0_9 wp_ih_0_9 0 0.4179
Vwn_ih_0_9 wn_ih_0_9 0 0.4221
X_ih_0_9 a_xp0 a_xn0 up_h9 un_h9 wp_ih_0_9 wn_ih_0_9 vdd dsyn
Vwp_ih_1_9 wp_ih_1_9 0 0.4762
Vwn_ih_1_9 wn_ih_1_9 0 0.3638
X_ih_1_9 a_xp1 a_xn1 up_h9 un_h9 wp_ih_1_9 wn_ih_1_9 vdd dsyn
Vwp_bk_9_0 wp_bk_9_0 0 0.4499
Vwn_bk_9_0 wn_bk_9_0 0 0.3901
X_bk_9_0 up_o0 un_o0 up_h9 un_h9 wp_bk_9_0 wn_bk_9_0 vdd dsyn
Vwp_bk_9_1 wp_bk_9_1 0 0.4278
Vwn_bk_9_1 wn_bk_9_1 0 0.4122
X_bk_9_1 up_o1 un_o1 up_h9 un_h9 wp_bk_9_1 wn_bk_9_1 vdd dsyn
Vwp_bh_9 wp_bh_9 0 0.4645
Vwn_bh_9 wn_bh_9 0 0.3755
X_bh_9 bp_hi bp_lo up_h9 un_h9 wp_bh_9 wn_bh_9 vdd dsyn
Mlp_h10 up_h10 up_h10 vdd vdd PNR W=1500u L=100u
Mln_h10 un_h10 un_h10 vdd vdd PNR W=1500u L=100u
Xn_h10 up_h10 un_h10 ap_h10 an_h10 vdd vbn dneuron
Vwp_ih_0_10 wp_ih_0_10 0 0.4118
Vwn_ih_0_10 wn_ih_0_10 0 0.4282
X_ih_0_10 a_xp0 a_xn0 up_h10 un_h10 wp_ih_0_10 wn_ih_0_10 vdd dsyn
Vwp_ih_1_10 wp_ih_1_10 0 0.3830
Vwn_ih_1_10 wn_ih_1_10 0 0.4570
X_ih_1_10 a_xp1 a_xn1 up_h10 un_h10 wp_ih_1_10 wn_ih_1_10 vdd dsyn
Vwp_bk_10_0 wp_bk_10_0 0 0.4434
Vwn_bk_10_0 wn_bk_10_0 0 0.3966
X_bk_10_0 up_o0 un_o0 up_h10 un_h10 wp_bk_10_0 wn_bk_10_0 vdd dsyn
Vwp_bk_10_1 wp_bk_10_1 0 0.4433
Vwn_bk_10_1 wn_bk_10_1 0 0.3967
X_bk_10_1 up_o1 un_o1 up_h10 un_h10 wp_bk_10_1 wn_bk_10_1 vdd dsyn
Vwp_bh_10 wp_bh_10 0 0.4114
Vwn_bh_10 wn_bh_10 0 0.4286
X_bh_10 bp_hi bp_lo up_h10 un_h10 wp_bh_10 wn_bh_10 vdd dsyn
Mlp_h11 up_h11 up_h11 vdd vdd PNR W=1500u L=100u
Mln_h11 un_h11 un_h11 vdd vdd PNR W=1500u L=100u
Xn_h11 up_h11 un_h11 ap_h11 an_h11 vdd vbn dneuron
Vwp_ih_0_11 wp_ih_0_11 0 0.3887
Vwn_ih_0_11 wn_ih_0_11 0 0.4513
X_ih_0_11 a_xp0 a_xn0 up_h11 un_h11 wp_ih_0_11 wn_ih_0_11 vdd dsyn
Vwp_ih_1_11 wp_ih_1_11 0 0.4292
Vwn_ih_1_11 wn_ih_1_11 0 0.4108
X_ih_1_11 a_xp1 a_xn1 up_h11 un_h11 wp_ih_1_11 wn_ih_1_11 vdd dsyn
Vwp_bk_11_0 wp_bk_11_0 0 0.3202
Vwn_bk_11_0 wn_bk_11_0 0 0.5198
X_bk_11_0 up_o0 un_o0 up_h11 un_h11 wp_bk_11_0 wn_bk_11_0 vdd dsyn
Vwp_bk_11_1 wp_bk_11_1 0 0.4476
Vwn_bk_11_1 wn_bk_11_1 0 0.3924
X_bk_11_1 up_o1 un_o1 up_h11 un_h11 wp_bk_11_1 wn_bk_11_1 vdd dsyn
Vwp_bh_11 wp_bh_11 0 0.4397
Vwn_bh_11 wn_bh_11 0 0.4003
X_bh_11 bp_hi bp_lo up_h11 un_h11 wp_bh_11 wn_bh_11 vdd dsyn
Mlp_h12 up_h12 up_h12 vdd vdd PNR W=1500u L=100u
Mln_h12 un_h12 un_h12 vdd vdd PNR W=1500u L=100u
Xn_h12 up_h12 un_h12 ap_h12 an_h12 vdd vbn dneuron
Vwp_ih_0_12 wp_ih_0_12 0 0.3544
Vwn_ih_0_12 wn_ih_0_12 0 0.4856
X_ih_0_12 a_xp0 a_xn0 up_h12 un_h12 wp_ih_0_12 wn_ih_0_12 vdd dsyn
Vwp_ih_1_12 wp_ih_1_12 0 0.4225
Vwn_ih_1_12 wn_ih_1_12 0 0.4175
X_ih_1_12 a_xp1 a_xn1 up_h12 un_h12 wp_ih_1_12 wn_ih_1_12 vdd dsyn
Vwp_bk_12_0 wp_bk_12_0 0 0.3814
Vwn_bk_12_0 wn_bk_12_0 0 0.4586
X_bk_12_0 up_o0 un_o0 up_h12 un_h12 wp_bk_12_0 wn_bk_12_0 vdd dsyn
Vwp_bk_12_1 wp_bk_12_1 0 0.4503
Vwn_bk_12_1 wn_bk_12_1 0 0.3897
X_bk_12_1 up_o1 un_o1 up_h12 un_h12 wp_bk_12_1 wn_bk_12_1 vdd dsyn
Vwp_bh_12 wp_bh_12 0 0.3386
Vwn_bh_12 wn_bh_12 0 0.5014
X_bh_12 bp_hi bp_lo up_h12 un_h12 wp_bh_12 wn_bh_12 vdd dsyn
Mlp_h13 up_h13 up_h13 vdd vdd PNR W=1500u L=100u
Mln_h13 un_h13 un_h13 vdd vdd PNR W=1500u L=100u
Xn_h13 up_h13 un_h13 ap_h13 an_h13 vdd vbn dneuron
Vwp_ih_0_13 wp_ih_0_13 0 0.3834
Vwn_ih_0_13 wn_ih_0_13 0 0.4566
X_ih_0_13 a_xp0 a_xn0 up_h13 un_h13 wp_ih_0_13 wn_ih_0_13 vdd dsyn
Vwp_ih_1_13 wp_ih_1_13 0 0.4484
Vwn_ih_1_13 wn_ih_1_13 0 0.3916
X_ih_1_13 a_xp1 a_xn1 up_h13 un_h13 wp_ih_1_13 wn_ih_1_13 vdd dsyn
Vwp_bk_13_0 wp_bk_13_0 0 0.4663
Vwn_bk_13_0 wn_bk_13_0 0 0.3737
X_bk_13_0 up_o0 un_o0 up_h13 un_h13 wp_bk_13_0 wn_bk_13_0 vdd dsyn
Vwp_bk_13_1 wp_bk_13_1 0 0.3337
Vwn_bk_13_1 wn_bk_13_1 0 0.5063
X_bk_13_1 up_o1 un_o1 up_h13 un_h13 wp_bk_13_1 wn_bk_13_1 vdd dsyn
Vwp_bh_13 wp_bh_13 0 0.4001
Vwn_bh_13 wn_bh_13 0 0.4399
X_bh_13 bp_hi bp_lo up_h13 un_h13 wp_bh_13 wn_bh_13 vdd dsyn
Mlp_h14 up_h14 up_h14 vdd vdd PNR W=1500u L=100u
Mln_h14 un_h14 un_h14 vdd vdd PNR W=1500u L=100u
Xn_h14 up_h14 un_h14 ap_h14 an_h14 vdd vbn dneuron
Vwp_ih_0_14 wp_ih_0_14 0 0.4331
Vwn_ih_0_14 wn_ih_0_14 0 0.4069
X_ih_0_14 a_xp0 a_xn0 up_h14 un_h14 wp_ih_0_14 wn_ih_0_14 vdd dsyn
Vwp_ih_1_14 wp_ih_1_14 0 0.3956
Vwn_ih_1_14 wn_ih_1_14 0 0.4444
X_ih_1_14 a_xp1 a_xn1 up_h14 un_h14 wp_ih_1_14 wn_ih_1_14 vdd dsyn
Vwp_bk_14_0 wp_bk_14_0 0 0.4836
Vwn_bk_14_0 wn_bk_14_0 0 0.3564
X_bk_14_0 up_o0 un_o0 up_h14 un_h14 wp_bk_14_0 wn_bk_14_0 vdd dsyn
Vwp_bk_14_1 wp_bk_14_1 0 0.3724
Vwn_bk_14_1 wn_bk_14_1 0 0.4676
X_bk_14_1 up_o1 un_o1 up_h14 un_h14 wp_bk_14_1 wn_bk_14_1 vdd dsyn
Vwp_bh_14 wp_bh_14 0 0.4342
Vwn_bh_14 wn_bh_14 0 0.4058
X_bh_14 bp_hi bp_lo up_h14 un_h14 wp_bh_14 wn_bh_14 vdd dsyn
Mlp_h15 up_h15 up_h15 vdd vdd PNR W=1500u L=100u
Mln_h15 un_h15 un_h15 vdd vdd PNR W=1500u L=100u
Xn_h15 up_h15 un_h15 ap_h15 an_h15 vdd vbn dneuron
Vwp_ih_0_15 wp_ih_0_15 0 0.3781
Vwn_ih_0_15 wn_ih_0_15 0 0.4619
X_ih_0_15 a_xp0 a_xn0 up_h15 un_h15 wp_ih_0_15 wn_ih_0_15 vdd dsyn
Vwp_ih_1_15 wp_ih_1_15 0 0.4762
Vwn_ih_1_15 wn_ih_1_15 0 0.3638
X_ih_1_15 a_xp1 a_xn1 up_h15 un_h15 wp_ih_1_15 wn_ih_1_15 vdd dsyn
Vwp_bk_15_0 wp_bk_15_0 0 0.4191
Vwn_bk_15_0 wn_bk_15_0 0 0.4209
X_bk_15_0 up_o0 un_o0 up_h15 un_h15 wp_bk_15_0 wn_bk_15_0 vdd dsyn
Vwp_bk_15_1 wp_bk_15_1 0 0.4051
Vwn_bk_15_1 wn_bk_15_1 0 0.4349
X_bk_15_1 up_o1 un_o1 up_h15 un_h15 wp_bk_15_1 wn_bk_15_1 vdd dsyn
Vwp_bh_15 wp_bh_15 0 0.3513
Vwn_bh_15 wn_bh_15 0 0.4887
X_bh_15 bp_hi bp_lo up_h15 un_h15 wp_bh_15 wn_bh_15 vdd dsyn
Mlp_o0 up_o0 up_o0 vdd vdd PNR W=5100u L=100u
Mln_o0 un_o0 un_o0 vdd vdd PNR W=5100u L=100u
Vwp_fo_0_0 wp_fo_0_0 0 0.4367
Vwn_fo_0_0 wn_fo_0_0 0 0.4033
X_fo_0_0 ap_h0 an_h0 up_o0 un_o0 wp_fo_0_0 wn_fo_0_0 vdd dsyn
Vwp_fo_1_0 wp_fo_1_0 0 0.4107
Vwn_fo_1_0 wn_fo_1_0 0 0.4293
X_fo_1_0 ap_h1 an_h1 up_o0 un_o0 wp_fo_1_0 wn_fo_1_0 vdd dsyn
Vwp_fo_2_0 wp_fo_2_0 0 0.4087
Vwn_fo_2_0 wn_fo_2_0 0 0.4313
X_fo_2_0 ap_h2 an_h2 up_o0 un_o0 wp_fo_2_0 wn_fo_2_0 vdd dsyn
Vwp_fo_3_0 wp_fo_3_0 0 0.4105
Vwn_fo_3_0 wn_fo_3_0 0 0.4295
X_fo_3_0 ap_h3 an_h3 up_o0 un_o0 wp_fo_3_0 wn_fo_3_0 vdd dsyn
Vwp_fo_4_0 wp_fo_4_0 0 0.4418
Vwn_fo_4_0 wn_fo_4_0 0 0.3982
X_fo_4_0 ap_h4 an_h4 up_o0 un_o0 wp_fo_4_0 wn_fo_4_0 vdd dsyn
Vwp_fo_5_0 wp_fo_5_0 0 0.4092
Vwn_fo_5_0 wn_fo_5_0 0 0.4308
X_fo_5_0 ap_h5 an_h5 up_o0 un_o0 wp_fo_5_0 wn_fo_5_0 vdd dsyn
Vwp_fo_6_0 wp_fo_6_0 0 0.4553
Vwn_fo_6_0 wn_fo_6_0 0 0.3847
X_fo_6_0 ap_h6 an_h6 up_o0 un_o0 wp_fo_6_0 wn_fo_6_0 vdd dsyn
Vwp_fo_7_0 wp_fo_7_0 0 0.4609
Vwn_fo_7_0 wn_fo_7_0 0 0.3791
X_fo_7_0 ap_h7 an_h7 up_o0 un_o0 wp_fo_7_0 wn_fo_7_0 vdd dsyn
Vwp_fo_8_0 wp_fo_8_0 0 0.4022
Vwn_fo_8_0 wn_fo_8_0 0 0.4378
X_fo_8_0 ap_h8 an_h8 up_o0 un_o0 wp_fo_8_0 wn_fo_8_0 vdd dsyn
Vwp_fo_9_0 wp_fo_9_0 0 0.4499
Vwn_fo_9_0 wn_fo_9_0 0 0.3901
X_fo_9_0 ap_h9 an_h9 up_o0 un_o0 wp_fo_9_0 wn_fo_9_0 vdd dsyn
Vwp_fo_10_0 wp_fo_10_0 0 0.4434
Vwn_fo_10_0 wn_fo_10_0 0 0.3966
X_fo_10_0 ap_h10 an_h10 up_o0 un_o0 wp_fo_10_0 wn_fo_10_0 vdd dsyn
Vwp_fo_11_0 wp_fo_11_0 0 0.3202
Vwn_fo_11_0 wn_fo_11_0 0 0.5198
X_fo_11_0 ap_h11 an_h11 up_o0 un_o0 wp_fo_11_0 wn_fo_11_0 vdd dsyn
Vwp_fo_12_0 wp_fo_12_0 0 0.3814
Vwn_fo_12_0 wn_fo_12_0 0 0.4586
X_fo_12_0 ap_h12 an_h12 up_o0 un_o0 wp_fo_12_0 wn_fo_12_0 vdd dsyn
Vwp_fo_13_0 wp_fo_13_0 0 0.4663
Vwn_fo_13_0 wn_fo_13_0 0 0.3737
X_fo_13_0 ap_h13 an_h13 up_o0 un_o0 wp_fo_13_0 wn_fo_13_0 vdd dsyn
Vwp_fo_14_0 wp_fo_14_0 0 0.4836
Vwn_fo_14_0 wn_fo_14_0 0 0.3564
X_fo_14_0 ap_h14 an_h14 up_o0 un_o0 wp_fo_14_0 wn_fo_14_0 vdd dsyn
Vwp_fo_15_0 wp_fo_15_0 0 0.4191
Vwn_fo_15_0 wn_fo_15_0 0 0.4209
X_fo_15_0 ap_h15 an_h15 up_o0 un_o0 wp_fo_15_0 wn_fo_15_0 vdd dsyn
Vwp_bo_0 wp_bo_0 0 0.4873
Vwn_bo_0 wn_bo_0 0 0.3527
X_bo_0 bp_hi bp_lo up_o0 un_o0 wp_bo_0 wn_bo_0 vdd dsyn
Rbp0 up_o0 vtp0 1e10
Rbn0 un_o0 vtn0 1e10
Mlp_o1 up_o1 up_o1 vdd vdd PNR W=5100u L=100u
Mln_o1 un_o1 un_o1 vdd vdd PNR W=5100u L=100u
Vwp_fo_0_1 wp_fo_0_1 0 0.3973
Vwn_fo_0_1 wn_fo_0_1 0 0.4427
X_fo_0_1 ap_h0 an_h0 up_o1 un_o1 wp_fo_0_1 wn_fo_0_1 vdd dsyn
Vwp_fo_1_1 wp_fo_1_1 0 0.3854
Vwn_fo_1_1 wn_fo_1_1 0 0.4546
X_fo_1_1 ap_h1 an_h1 up_o1 un_o1 wp_fo_1_1 wn_fo_1_1 vdd dsyn
Vwp_fo_2_1 wp_fo_2_1 0 0.3933
Vwn_fo_2_1 wn_fo_2_1 0 0.4467
X_fo_2_1 ap_h2 an_h2 up_o1 un_o1 wp_fo_2_1 wn_fo_2_1 vdd dsyn
Vwp_fo_3_1 wp_fo_3_1 0 0.4583
Vwn_fo_3_1 wn_fo_3_1 0 0.3817
X_fo_3_1 ap_h3 an_h3 up_o1 un_o1 wp_fo_3_1 wn_fo_3_1 vdd dsyn
Vwp_fo_4_1 wp_fo_4_1 0 0.3998
Vwn_fo_4_1 wn_fo_4_1 0 0.4402
X_fo_4_1 ap_h4 an_h4 up_o1 un_o1 wp_fo_4_1 wn_fo_4_1 vdd dsyn
Vwp_fo_5_1 wp_fo_5_1 0 0.4103
Vwn_fo_5_1 wn_fo_5_1 0 0.4297
X_fo_5_1 ap_h5 an_h5 up_o1 un_o1 wp_fo_5_1 wn_fo_5_1 vdd dsyn
Vwp_fo_6_1 wp_fo_6_1 0 0.4432
Vwn_fo_6_1 wn_fo_6_1 0 0.3968
X_fo_6_1 ap_h6 an_h6 up_o1 un_o1 wp_fo_6_1 wn_fo_6_1 vdd dsyn
Vwp_fo_7_1 wp_fo_7_1 0 0.3816
Vwn_fo_7_1 wn_fo_7_1 0 0.4584
X_fo_7_1 ap_h7 an_h7 up_o1 un_o1 wp_fo_7_1 wn_fo_7_1 vdd dsyn
Vwp_fo_8_1 wp_fo_8_1 0 0.3769
Vwn_fo_8_1 wn_fo_8_1 0 0.4631
X_fo_8_1 ap_h8 an_h8 up_o1 un_o1 wp_fo_8_1 wn_fo_8_1 vdd dsyn
Vwp_fo_9_1 wp_fo_9_1 0 0.4278
Vwn_fo_9_1 wn_fo_9_1 0 0.4122
X_fo_9_1 ap_h9 an_h9 up_o1 un_o1 wp_fo_9_1 wn_fo_9_1 vdd dsyn
Vwp_fo_10_1 wp_fo_10_1 0 0.4433
Vwn_fo_10_1 wn_fo_10_1 0 0.3967
X_fo_10_1 ap_h10 an_h10 up_o1 un_o1 wp_fo_10_1 wn_fo_10_1 vdd dsyn
Vwp_fo_11_1 wp_fo_11_1 0 0.4476
Vwn_fo_11_1 wn_fo_11_1 0 0.3924
X_fo_11_1 ap_h11 an_h11 up_o1 un_o1 wp_fo_11_1 wn_fo_11_1 vdd dsyn
Vwp_fo_12_1 wp_fo_12_1 0 0.4503
Vwn_fo_12_1 wn_fo_12_1 0 0.3897
X_fo_12_1 ap_h12 an_h12 up_o1 un_o1 wp_fo_12_1 wn_fo_12_1 vdd dsyn
Vwp_fo_13_1 wp_fo_13_1 0 0.3337
Vwn_fo_13_1 wn_fo_13_1 0 0.5063
X_fo_13_1 ap_h13 an_h13 up_o1 un_o1 wp_fo_13_1 wn_fo_13_1 vdd dsyn
Vwp_fo_14_1 wp_fo_14_1 0 0.3724
Vwn_fo_14_1 wn_fo_14_1 0 0.4676
X_fo_14_1 ap_h14 an_h14 up_o1 un_o1 wp_fo_14_1 wn_fo_14_1 vdd dsyn
Vwp_fo_15_1 wp_fo_15_1 0 0.4051
Vwn_fo_15_1 wn_fo_15_1 0 0.4349
X_fo_15_1 ap_h15 an_h15 up_o1 un_o1 wp_fo_15_1 wn_fo_15_1 vdd dsyn
Vwp_bo_1 wp_bo_1 0 0.4501
Vwn_bo_1 wn_bo_1 0 0.3899
X_bo_1 bp_hi bp_lo up_o1 un_o1 wp_bo_1 wn_bo_1 vdd dsyn
Rbp1 up_o1 vtp1 1e10
Rbn1 un_o1 vtn1 1e10
.nodeset v(up_h0)=0.5 v(un_h0)=0.5 v(ap_h0)=0.5 v(an_h0)=0.5 v(up_h1)=0.5 v(un_h1)=0.5 v(ap_h1)=0.5 v(an_h1)=0.5 v(up_h2)=0.5 v(un_h2)=0.5 v(ap_h2)=0.5 v(an_h2)=0.5 v(up_h3)=0.5 v(un_h3)=0.5 v(ap_h3)=0.5 v(an_h3)=0.5 v(up_h4)=0.5 v(un_h4)=0.5 v(ap_h4)=0.5 v(an_h4)=0.5 v(up_h5)=0.5 v(un_h5)=0.5 v(ap_h5)=0.5 v(an_h5)=0.5 v(up_h6)=0.5 v(un_h6)=0.5 v(ap_h6)=0.5 v(an_h6)=0.5 v(up_h7)=0.5 v(un_h7)=0.5 v(ap_h7)=0.5 v(an_h7)=0.5 v(up_h8)=0.5 v(un_h8)=0.5 v(ap_h8)=0.5 v(an_h8)=0.5 v(up_h9)=0.5 v(un_h9)=0.5 v(ap_h9)=0.5 v(an_h9)=0.5 v(up_h10)=0.5 v(un_h10)=0.5 v(ap_h10)=0.5 v(an_h10)=0.5 v(up_h11)=0.5 v(un_h11)=0.5 v(ap_h11)=0.5 v(an_h11)=0.5 v(up_h12)=0.5 v(un_h12)=0.5 v(ap_h12)=0.5 v(an_h12)=0.5 v(up_h13)=0.5 v(un_h13)=0.5 v(ap_h13)=0.5 v(an_h13)=0.5 v(up_h14)=0.5 v(un_h14)=0.5 v(ap_h14)=0.5 v(an_h14)=0.5 v(up_h15)=0.5 v(un_h15)=0.5 v(ap_h15)=0.5 v(an_h15)=0.5 v(up_o0)=0.5 v(un_o0)=0.5 v(up_o1)=0.5 v(un_o1)=0.5
.options reltol=1e-3 gmin=1e-9 itl1=120
.end
